2179-10-23 06:45:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - CTA neg for PE, heparin gtt stopped
   - continued diuresis with lasix boluses
   - started valsartan for tomorrow AM as pressures remained sufficiently
   high
   - CE neg x 3
   Allergies:
   Lisinopril
   angioedema;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2179-10-22**] 08:40 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2179-10-23**] 06:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37.2
C (98.9
   HR: 76 (72 - 81) bpm
   BP: 114/65(77) {106/62(72) - 136/78(90)} mmHg
   RR: 20 (20 - 35) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    220 mL
                                                                    240 mL
   PO:
                                                                    120 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    100 mL
                                                                    120 mL
   Blood products:
   Total out:
                                                                  2,880 mL
                                                                  1,240 mL
   Urine:
                                                                  1,680 mL
                                                                  1,240 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,660 mL
                                                                 -1,000 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 670 (410 - 700) mL
   PS : 10 cmH2O
   RR (Spontaneous): 22
   PEEP: 8 cmH2O
   FiO2: 40%
   PIP: 19 cmH2O
   SpO2: 100%
   ABG: 7.43/25/48/20/-5
   Ve: 11.8 L/min
   PaO2 / FiO2: 120
   Physical Examination
   GEN: Mildly anxious, on BiPap mask
   CV: RRR.  Limited exam [**1-25**] breath sounds from BiPap.
   RESP: Bronchial breath sounds throughout.  Rales bilaterally, R > L,
   halfway up lung fields.  Absent breath sounds at bases bilaterally, R >
   L.
   ABD: S, +BS, NT/ND
   EXT: mildly warm, faint distal pulses palpable bilaterally
   Labs / Radiology
   352 K/uL
   8.4 g/dL
   130 mg/dL
   1.1 mg/dL
   20 mEq/L
   4.5 mEq/L
   31 mg/dL
   112 mEq/L
   140 mEq/L
   26.0 %
   12.6 K/uL
        [image002.jpg]
                            [**2179-10-22**]  02:53 PM
                            [**2179-10-22**]  03:30 PM
                            [**2179-10-22**]  06:13 PM
                            [**2179-10-23**]  12:12 AM
   WBC
   12.6
   Hct
   26.0
   Plt
   352
   Cr
   1.1
   TropT
   <0.01
   <0.01
   <0.01
   TCO2
   17
   Glucose
   130
   Other labs: PT / PTT / INR:15.8/78.8/1.4, CK / CKMB /
   Troponin-T:114/5/<0.01, ALT / AST:15/32, Alk Phos / T Bili:136/0.5,
   D-dimer:2829 ng/mL, LDH:281 IU/L, Ca++:8.5 mg/dL, Mg++:1.7 mg/dL,
   PO4:3.5 mg/dL
   Assessment and Plan
   66 yo male with history of hypertension, hyperlipidemia, dilated
   cardiomyopathy admitted to the CCU for marked hypoxia, likely [**1-25**] CHF
   exacerbation.
   .
   # Respiratory Distress
 Initially thought to be [**1-25**] PE, now thought to
   be [**1-25**] CHF exacerbation.
   - Continue supplemental O2 with BiPAP.
   - Continue diuresis with IV lasix boluses.  Expect improved hypoxia
   with continued diuresis.
   - Empiric abx therapy for ?PNA with azithromycin.
   - Send induced sputum cx.
   - Restart heparin gtt for ostensible treatment of acute vs. chronic PE
   pending LE DVT, final read of CTA.
   .
   # CORONARIES:  The patient had a coronary cath in [**2170**] which showed no
   evidence of CAD.  The patient has multiple risk factors including
   hypertension, hyperlipidema, and tobacco abuse.  EKG does not show
   evidence of acute ischemia.  Ruled out for MI with cardiac enzymes x 3.
   - Continue aspirin and statin
   - EKG daily
   .
   # PUMP:  The patient has a history of dilated cardiomyopathy, likely
   associated to alcohol abuse, with previously documented NYHA class I
   symptoms.  On echo today, the patient has decreased systolic function
   with EF documented 25-30% with no new wall motion abnormalities.  It is
   possible that the patient is experiencing volume overload causing
   symptoms of respiratory distress.  Will continue diuresis with IV
   lasix.
   - Restarted home [**Last Name (un) 239**] at lower dose (valsartan 40 mg [**Hospital1 **]).  Will restart
   metoprolol.
   - Monitor I/Os and daily weights
   - Goal diuresis approx. 2 to 2.5 L.
   .
   # RHYTHM:  The patient is currently in sinus rhythm.
   -          Monitor on telemetry
   -          Restart B-blocker
   .
   # Alcohol Abuse:  CIWA PRN with ativan.  Replete magnesium PRN.
   .
   # EtOH Cirrhosis:  LFTs on arrival.  Will avoid hepatotoxic
   medications.
   .
   # Chronic Kidney disease:  Crn 1.1 on arrival.  Following contrast
   load, will monitor Crn closely.
   .
   # Hypertension:  Valsartan and metoprolol have been started and will be
   uptitrated as tolerated.
   .
# Hyperlipidemia: On [**2179-8-5**], his total cholesterol was 143, HDL 71, LDL 56.  C
ontinue statin.
   .
   # FEN:  NPO for now, when off BiPAP
   .
   # ACCESS: PIV's
   .
   # PROPHYLAXIS:
   -DVT ppx with HSQ
   .
   # CODE: full code
   .
   # COMM:  patient and girlfriend
   .
   # DISPO: CCU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2179-10-22**] 03:56 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2179-10-24 07:08:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   [**10-23**]:
   - Started Carvedilol 6.25 mg PO/NG [**Hospital1 **], Azithromycin for atypical
   coverage.
   - Urine legionella and flu were negative
   - All cultures, HIV, and minibal are pending
   - LE US - initial read no DVT, will restart heparin with final read
   - off BIPAP([**7-31**]), tolerating nc well on 6L
   - continue diuresis -1.6 L at 4pm, 5pm lytes checked, given additional
   dose of lasix, checking [**Hospital1 **] lytes.
   - CTA - final: No pulmonary embolus. No aortic dissection. Diffuse
   central perihilar ground-glass opacification, bilateral pleural
   effusions, non-bulky mediastinal lymphadenopathy and pulmonary artery
   hypertension is most consistent with cardiogenic pulmonary edema.
   Differential diagnosis, however, does include interstitial pneumonia
   such as PCP, [**Name10 (NameIs) **] well as pulmonary hemorrhage, drug hypersensitivity,
   sarcoid and alveolar proteinosis although these seem less likely.
   Recommend rescan after treatment to ensure no underlying process.
   Vascular including dense coronary artery calcifications.  Appparent
   thickening of left atrial appendage may artifactual due to wall
   apposition or could represent thrombus. Correlation with clinical
   history and echocardiogram suggested.
   - spiked a temp to 101 - re-cultured, given tylenol.
   Allergies:
   Lisinopril
   angioedema;
   Last dose of Antibiotics:
   Azithromycin - [**2179-10-23**] 01:01 PM
   Infusions:
   Heparin Sodium - 1,200 units/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2179-10-23**] 08:20 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2179-10-24**] 07:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 36.7
C (98
   HR: 83 (65 - 85) bpm
   BP: 131/76(89) {100/56(65) - 132/76(89)} mmHg
   RR: 22 (16 - 29) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,110 mL
                                                                     78 mL
   PO:
                                                                    840 mL
             TF:
   IVF:
                                                                    270 mL
                                                                     78 mL
   Blood products:
   Total out:
                                                                  2,805 mL
                                                                    940 mL
   Urine:
                                                                  2,805 mL
                                                                    940 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,695 mL
                                                                   -862 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: Standby
   Vt (Spontaneous): 539 (539 - 539) mL
   PS : 8 cmH2O
   RR (Spontaneous): 28
   PEEP: 8 cmH2O
   FiO2: 95%
   SpO2: 100%
   ABG: 7.48/24/67/19/-2
   Ve: 11 L/min
   PaO2 / FiO2: 168
   Physical Examination
   Gen: Lying at 30 Degrees in bed, comfortable, not laboring to breath,
   NC in at 4L
   HEENT:  JVD to 4cm at 30 degrees
   CV: s1s2 RRR no MGR
   Pulm: diminished BS at the bases B/L with associated crackles
   Abd: soft NTND BS+ x4
   Extr: resolved edema, strong pulses
   Labs / Radiology
   324 K/uL
   8.5 g/dL
   181
   1.3 mg/dL
   19 mEq/L
   4.0 mEq/L
   32 mg/dL
   110 mEq/L
   139 mEq/L
   26.2 %
   14.5 K/uL
        [image002.jpg]
                            [**2179-10-22**]  02:53 PM
                            [**2179-10-22**]  03:30 PM
                            [**2179-10-22**]  06:13 PM
                            [**2179-10-23**]  12:12 AM
                            [**2179-10-23**]  06:00 AM
                            [**2179-10-23**]  07:45 AM
                            [**2179-10-23**]  04:49 PM
                            [**2179-10-23**]  10:00 PM
                             [**2179-10-24**]  05:26 AM
   WBC
   12.6
   11.1
   14.5
   Hct
   26.0
   28.6
   26.2
   Plt
   [**Telephone/Fax (3) 10713**]
   Cr
   1.1
   1.2
   1.3
   TropT
   <0.01
   <0.01
   <0.01
   TCO2
   17
   18
   Glucose
   130
   155
   268
   181
   Other labs: PT / PTT / INR:15.3/86.3/1.3, CK / CKMB /
   Troponin-T:114/5/<0.01, ALT / AST:15/32, Alk Phos / T Bili:136/0.5,
   D-dimer:2829 ng/mL, LDH:281 IU/L, Ca++:8.3 mg/dL, Mg++:2.1 mg/dL,
   PO4:3.5 mg/dL
   Assessment and Plan
   66 yo male with history of hypertension, hyperlipidemia, dilated
   cardiomyopathy admitted to the CCU for marked hypoxia, likely [**1-25**] CHF
   exacerbation.
   .
   # Respiratory Distress
 Initially thought to be [**1-25**] PE, now thought to
   be [**1-25**] CHF exacerbation.
   - Continue supplemental O2 with NC now down to 4L.
   - Continue diuresis with IV lasix boluses PRN.  Expect improved hypoxia
   with continued diuresis.
   - Empiric abx therapy for PNA with azithromycin 5d course to end [**10-27**].
   - Send induced sputum cx.
   - D/C
d heparin drip.
   .
   # CORONARIES:  The patient had a coronary cath in [**2170**] which showed no
   evidence of CAD.  The patient has multiple risk factors including
   hypertension, hyperlipidema, and tobacco abuse.  EKG does not show
   evidence of acute ischemia.  Ruled out for MI with cardiac enzymes x 3.
   - Continue aspirin and statin
   - EKG daily
   .
   # PUMP:  The patient has a history of dilated cardiomyopathy, likely
   associated to alcohol abuse, with previously documented NYHA class I
   symptoms.  On echo, the patient has decreased systolic function with EF
   documented 25-30% with no new wall motion abnormalities.  It likely
   that the patient is experiencing volume overload causing symptoms of
   respiratory distress.  Will continue diuresis with IV lasix.
   - Restarted home [**Last Name (un) 239**] at lower dose (valsartan 40 mg [**Hospital1 **]).  Carvedilol
   added for better BP benefit.
   - Monitor I/Os and daily weights
   - Goal diuresis approx. 2 to 2.5 L.
   .
   #Leukocytosis:  WBC trending up slowly, currently not on 24hours of
   Abx.
   -          Will continue abx for now, f/u cx results.
   -          f/u diff
   # RHYTHM:  The patient is currently in sinus rhythm.
   -          Monitor on telemetry
   -          Continue carvedilol
   .
   # Alcohol Abuse:  CIWA PRN with ativan.  Replete magnesium PRN.
          - counseled against alcohol use today
   .
   # EtOH Cirrhosis:  LFTs on arrival.  Will avoid hepatotoxic
   medications.
   .
   # Chronic Kidney disease:  Crn 1.1 on arrival.  Following contrast
   load, will monitor Crn closely (1.3 today.)
   .
   # Hypertension:  Valsartan and Carvedilol have been started and will be
   uptitrated as tolerated.
   .
# Hyperlipidemia: On [**2179-8-5**], his total cholesterol was 143, HDL 71, LDL 56.  C
ontinue statin.
   .
   # FEN:  heart healthy diet
   .
   # ACCESS: PIV's
   .
   # PROPHYLAXIS:
   -DVT ppx with SQH
   .
   # CODE: full code
   .
   # COMM:  patient and girlfriend
   .
   # DISPO: CCU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2179-10-22**] 03:56 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: